US08541575B2
1-{3-[4-(2-aminopyrimidin-4-yl)-1H-pyrazol-3-yl]phenyl}-3-[4-(trifluoromethyl)-phenyl]urea
800 mg (1.4 mmol) of 1-{3-[4-(2-aminopyrimidin-4-yl)-1-(4-methoxybenzyl)-1H-pyrazol-3-yl]phenyl}-3-[4-(trifluoromethyl)phenyl]urea were dissolved in 20 ml of trifluoroacetic acid and the mixture stirred at 70° C. for 4 hours. The solvent was then removed under reduced pressure and the residue taken up with dichloromethane and washed with aqueous sodium hydrogenocarbonate. The organic phase was dried over sodium sulphate and evaporated. The product was finally purified by flash-chromatography on a silica gel column (CH2Cl2-CH3OH; from 99/1 to 95/5), giving 450 mg (73%) of the title compound.

reactant | 1-{3-[4-(2-aminopyrimidin-4-yl)-1-(4-methoxybenzyl)-1H-pyrazol-3-yl]phenyl}-3-[4-(trifluoromethyl)phenyl]urea | 1.4 mmol, 800 mg | NC1=NC=CC(=N1)C=1C(=NN(C1)CC1=CC=C(C=C1)OC)C=1C=C(C=CC1)NC(=O)NC1=CC=C(C=C1)C(F)(F)F | C29H24F3N7O2
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-{3-[4-(2-aminopyrimidin-4-yl)-1H-pyrazol-3-yl]phenyl}-3-[4-(trifluoromethyl)-phenyl]urea | 450 mg, 73% | NC1=NC=CC(=N1)C=1C(=NNC1)C=1C=C(C=CC1)NC(=O)NC1=CC=C(C=C1)C(F)(F)F | C21H16F3N7O
